US04298529
To a solution of ethyl 2-methoxyimino-3,3-ethylenedioxybutyrate (syn isomer, 180 g) in ethanol (1080 ml) was added 1 N aqueous solution of sodium hydroxide (1660 ml) and the mixture was stirred for 2 hours and 10 minutes at ambient temperature. After the reaction mixture was adjusted to pH 7.3 with 6 N hydrochloric acid, ethanol was distilled off under reduced pressure and then washed with diethyl ether (500 ml×2). To the resultant was added diethyl ether (1 l), adjusted to pH 1.5 with 6 N hydrochloric acid and then diethyl ether layer was separated. The remaining aqueous layer was further extracted with diethyl ether (350 ml), and the remaining aqueous layer was adjusted to pH 1.3 with 6 N hydrochloric acid and then further extracted with diethyl ether (350 ml×2). The diethyl ether layer and extracts were combined together, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then filtered. The filtrate was concentrated to give an oil (155.6 g) of 2-methoxyimino-3,3-ethylenedioxybutyric acid (syn isomer). (Yield: 99.3%)

reactant | ethyl 2-methoxyimino-3,3-ethylenedioxybutyrate | 180 g | CON=C(C(=O)OCC)C1(C)OCCO1 | C9H15NO5
reactant | sodium hydroxide | 1660 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | ethanol | 1080 ml | C(C)O | C2H6O
product | 2-methoxyimino-3,3-ethylenedioxybutyric acid | 155.6 g, Yield: 99.3% | CON=C(C(=O)O)C1(C)OCCO1 | C7H11NO5
